US07358370B2
3-butoxy-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl)benzamide (Compound 60)
3-Fluoro-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-benzonitrile (148 mg, 0.5 mmol) and 1-butanol (185.3 mg, 2.5 mmol) were dissolved in anhydrous DMF (1.5 mL). To this solution was added NaH (24.0 mg, 1 mmol). After purging the reaction vessel (Personal Chemistry Microwave Vial) with nitrogen, the reaction vessel was sealed and heated to 100° C. for 300 seconds in an Emyrs Optimizer Microwave. After cooling, the reaction mixture was diluted with H2O and extracted into EtOAc (×2). The combined organics were washed with brine (×2), dried over Na2SO4, and concentrated to dryness. The yellow residue (3-Butoxy-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-benzonitrile) was then dissolved in EtOH (3 mL) and treated with 1 mL of 1 N NaOH (aq) and a catalytic amount of H2O2. Quantitative conversion of the nitrile to the amide occurred after heating this solution at 65° C. for 3 hours. Column chromatography on silica eluting with EtOAc gave the product as a white solid (119.9 mg, 65%). (100% clean by LC/MS, product M+H=369.2).

reactant | 3-Fluoro-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-benzonitrile | 0.5 mmol, 148 mg | FC=1C=C(C#N)C=CC1N1C(=CC=2C(CC(CC12)(C)C)=O)C | C18H17FN2O
reactant | 1-butanol | 2.5 mmol, 185.3 mg | C(CCC)O | C4H10O
reactant | NaH | 1 mmol, 24.0 mg | [H-].[Na+]
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-butoxy-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-1-yl)benzamide | 119.9 mg, 65% | C(CCC)OC=1C=C(C(=O)N)C=CC1N1C(=CC=2C(CC(CC12)(C)C)=O)C | C22H28N2O3
